US05057614
0.28 g of 3-(1-methyl-3-indolyl)-4-(3-thienyl)furan-2,5-dione was treated with 10 ml of DMF and 40 ml of 33% aqueous ammonia. The mixture was heated at 140° C. for 4 hours. The cooled solution was poured into 150 ml of water and the resulting precipitate was filtered off and dried to give 0.15 g of 3-(1-methyl-3-indolyl)-4-(3-thienyl)-1H-pyrrole-2,5-dione, m.p. 211°-212° C.

reactant | 3-(1-methyl-3-indolyl)-4-(3-thienyl)furan-2,5-dione | 0.28 g | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CSC=C1)=O)=O | C17H11NO3S
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | ammonia | 40 ml | N | H3N
solvent | water | 150 ml | O | H2O
product | 3-(1-methyl-3-indolyl)-4-(3-thienyl)-1H-pyrrole-2,5-dione | 0.15 g | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CSC=C1)=O)=O | C17H12N2O2S
